US04229348
Oxalyl chloride (10.1 g) was added to a solution of 3,4-diacetoxybenzamide (7.5 g) in 1,2-dichloroethane (80 ml) with stirring under cooling. The mixture was gradually heated to a reflux temperature and allowed to react under reflux for 13 hours. After completion of the reaction, the solvent and excess oxalyl chloride was distilled off under reduced pressure to give 3,4-diacetoxybenzoyl isocyanate which was dissolved in anhydrous dichloromethane (40 ml) for the subsequent reaction.

reactant | Oxalyl chloride | 10.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3,4-diacetoxybenzamide | 7.5 g | C(C)(=O)OC=1C=C(C(=O)N)C=CC1OC(C)=O | C11H11NO5
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
product | 3,4-diacetoxybenzoyl isocyanate | C(C)(=O)OC=1C=C(C(=O)N=C=O)C=CC1OC(C)=O | C12H9NO6
